US08633186B2
2-Amino-6-methoxybenzonitrile
A solution of 2-methoxy-6-nitrobenzonitrile (1.01 g, 5.69 mmol), cyclohexene (2.84 g, 3.51 mL, 34.58 mmol) and 10% Pd/C (0.58 g) in EtOH (25 mL) was refluxed for 1.5 h. The mixture was cooled to room temperature, filtered and evaporated, to afford the title compound 0.83 g (98%). The crude product was used in the next step without further purification. 1H NMR (400 MHz, DMSO-d6) δ 7.17 (t, J=8.0 Hz, 1H), 6.31-6.35 (m, 1H), 6.17-6.21 (m, 1H), 5.97 (broad s, 2H), 3.76 (s, 3H).

reactant | 2-methoxy-6-nitrobenzonitrile | 5.69 mmol, 1.01 g | COC1=C(C#N)C(=CC=C1)[N+](=O)[O-] | C8H6N2O3
reactant | cyclohexene | 34.58 mmol, 3.51 mL, 2.84 g | C1=CCCCC1 | C6H10
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd/C | 0.58 g | [Pd] | Pd
product | 2-Amino-6-methoxybenzonitrile | 0.83 g, 98% | NC1=C(C#N)C(=CC=C1)OC | C8H8N2O
